US03965151
Preparation of 10-chloro-2-chloromethyl-2,3,5,11b-tetrahydro-7-methyl-11b-phenyloxazolo[3,2-d] [1,4]benzodiazepin-6(7H)-one ##SPC21##
A mixture of 10 g. (35 mmole) of 7-chloro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one, 10 g. of aluminum chloride, and 200 ml. of dried benzene was treated with 30 ml. of 1-chloro-2,3-epoxypropane in 100 ml. of benzene. The reaction mixture was stirred overnight. Work-up as in Method A, Example 5, above gave 32 g. of a crude oil. The oil was dissolved in benzene, filtered over Florisil, evaporated to dryness and crystallized from ether-petroleum ether to give the above-titled product as colorless needles, m.p. 140°-142°.

reactant | 7-chloro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 35 mmole | ClC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H13ClN2O
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-chloro-2,3-epoxypropane | ClCC1CO1 | C3H5ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 10-chloro-2-chloromethyl-2,3,5,11b-tetrahydro-7-methyl-11b-phenyloxazolo[3,2-d] [1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C3(N(CC(N2C)=O)CC(O3)CCl)C3=CC=CC=C3)C1 | C19H18Cl2N2O2
